US05025025
To a solution of 63.34g (0.23 mole) of diethyl [3-(3-pyridyl)-propyl]malonate in 1.1L dimethylformamide is in small portions 9.91 g (0.25 mole) of sodium hydride as a 60% dispension in oil. After stirring at room temperature for 0.5 hours, 28 mL (0.23 mole) of 1-bromo-4-chlorobutane is added and then heated to 60° for 10 hours. Then 68.26 g (0.46 mole) sodium iodide is added followed by 44.44 g (0.68 mole) sodium azide and 9.0 g crown ether 18-Crown-6. The reaction mixture is heated for 15 hours at 60°, is then cooled and poured on ice. The mixture is then extracted with ether (4×500 mL). Combined organic extracts are extracted with 1N aqueous hydrochloric acid (1×200, 2×100 mL). Combined aqueous extract is adjusted to pH 8 by addition of solid sodium bicarbonate and then extracted with ether (3×300 mL). Combined organic extracts are washed with water (3×100 mL), brine (1×300 mL), dried (MgSO4), filtered and then evaporated to dryness to give diethyl [4-azidobutyl][3-(3-pyridyl)-propyl]-malonate as an oil.

reactant | diethyl [3-(3-pyridyl)-propyl]malonate | 0.23 mole, 63.34g | N1=CC(=CC=C1)CCCC(C(=O)OCC)C(=O)OCC | C15H21NO4
reactant | sodium hydride | 0.25 mole, 9.91 g | [H-].[Na+]
reactant | 1-bromo-4-chlorobutane | 0.23 mole, 28 mL | BrCCCCCl | C4H8BrCl
reactant | sodium iodide | 0.46 mole, 68.26 g | [I-].[Na+]
reactant | sodium azide | 0.68 mole, 44.44 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 1.1L | CN(C=O)C | C3H7NO
product | diethyl [4-azidobutyl][3-(3-pyridyl)-propyl]-malonate | N(=[N+]=[N-])CCCCC(C(=O)OCC)(C(=O)OCC)CCCC=1C=NC=CC1 | C19H28N4O4
